US05569655
To 3-furaldehyde (25.0 g, 0.26 mol) in THF (250 mL) at 78° C. was added ethynylmagnesium bromide (572 mL, 0.286, 0.5M THF) at the rate of 10 mL per minute. The mixture was slowly warmed to room temperature, stirred for 1 hour and then poured into a cooled ammonium chloride solution. The mixture was extracted with ethyl acetate, and the organic layer was dried over Na2SO4 and concentrated in vacuo. The residue was distilled at 50°-55° C. and 0.24 mmHg to afford 1-(3-furyl)-1-hydroxy-2-propyne.

reactant | 3-furaldehyde | 0.26 mol, 25.0 g | O1C=C(C=C1)C=O | C5H4O2
reactant | ethynylmagnesium bromide | 0.5M, 572 mL | C(#C)[Mg]Br
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 250 mL | C1CCOC1 | C4H8O
product | 1-(3-furyl)-1-hydroxy-2-propyne | O1C=C(C=C1)C(C#C)O | C7H6O2
